US06841558B2
Step 1 Preparation of 3-{[Methoxycarbonylmethyl-(toluene-4-sulfonyl)-amino]-methyl}-pyridine-2-carboxylic acid isopropyl ester
Isopropyl 3-(hydroxymethyl)pyridine-2-carboxylate (prepared in accordance with P. Ornstein et. al. J. Med. Chem. 1989, 32, 827) (200 g, 1.02 mol), methyl N-[(4-methylphenyl)sulfonyl]glycinate (249 g, 1.02 mol), and triphenylphosphine (403 g, 1.5 mol) were dissolved in dry THF (3000 mls) and cooled to zero degrees under N2. The diethylazodicarboxylate (DEAD) (267.6 g, 1.5 mol) was dissolved in dry THF (250 mls) and placed in a 500 ml addition funnel. The DEAD was added dropwise over 1 hour. The ice bath was removed and the reaction was allowed to warm slowly to RT. After 2 hours, the reaction was checked by HPLC (above conditions) and some glycinate remained. More starting reagents were added and the reaction was left to stir at RT. After 30 min, the reaction was checked again and saw a very small amount of the glycinate remaining. Concentrated reaction down to a reddish-orange oil that was carried onto the next step.

reactant | Isopropyl 3-(hydroxymethyl)pyridine-2-carboxylate | 1.02 mol, 200 g | OCC=1C(=NC=CC1)C(=O)OC(C)C | C10H13NO3
reactant | methyl N-[(4-methylphenyl)sulfonyl]glycinate | 1.02 mol, 249 g | CC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OC | C10H13NO4S
reactant | triphenylphosphine | 1.5 mol, 403 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.5 mol, 267.6 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 3000 mls | C1CCOC1 | C4H8O
solvent | THF | 250 mls | C1CCOC1 | C4H8O
product | 3-{[Methoxycarbonylmethyl-(toluene-4-sulfonyl)-amino]-methyl}-pyridine-2-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C1=NC=CC=C1CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)OC | C20H24N2O6S
